US04143166
Dichloroacetyl chloride (14.7 g.) was dissolved in methylene chloride (50 ml.). To the solution was added 2-hydroxyimino-2-(3-nitro-4-hydroxyphenyl)acetic acid (5.65 g.) (syn isomer) with stirring under ice-cooling. The solution was stirred for 30 minutes at room temperature after ether (10 ml.) was added. To the reaction mixture was added petroleum ether under ice-cooling. The precipitates were collected by filtration and thoroughly washed with petroleum ether to give 2-dichloroacetoxyimino-2-(3-nitro-4-hydroxyphenyl)acetic acid (syn isomer) (6.1 g.), which was used as a starting material for the following acylating reaction without further purification.

reactant | Dichloroacetyl chloride | 14.7 g | ClC(C(=O)Cl)Cl | C2HCl3O
reactant | 2-hydroxyimino-2-(3-nitro-4-hydroxyphenyl)acetic acid | 5.65 g | ON=C(C(=O)O)C1=CC(=C(C=C1)O)[N+](=O)[O-] | C8H6N2O6
reactant | ether | 10 ml | CCOCC | C4H10O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 2-dichloroacetoxyimino-2-(3-nitro-4-hydroxyphenyl)acetic acid | 6.1 g | ClC(C(=O)ON=C(C(=O)O)C1=CC(=C(C=C1)O)[N+](=O)[O-])Cl | C10H6Cl2N2O7
